US07262201B1
Using an analogous procedure to that described for Example 9, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (200 mg, 0.59 mmol), (prepared as described for the starting material in Example 2), was reacted with 3-(4-pyridyl)-4,5-dihydro-1H-pyrazol-5-one (240 mg, 1.5 mmol) in the presence of sodium hydride (59 mg, 1.5 mmol, prewashed with THF) in DMF (3 ml) to give 6-methoxy-7-(3-morpholinopropoxy)-4-(5-(4-pyridyl)pyrazol-3-yloxy)quinazoline (130 mg, 48%).

reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.59 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 3-(4-pyridyl)-4,5-dihydro-1H-pyrazol-5-one | 1.5 mmol, 240 mg | N1=CC=C(C=C1)C1=NNC(C1)=O | C8H7N3O
reactant | sodium hydride | 1.5 mmol, 59 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(3-morpholinopropoxy)-4-(5-(4-pyridyl)pyrazol-3-yloxy)quinazoline | 130 mg, 48% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCOCC1)OC1=NNC(=C1)C1=CC=NC=C1 | C24H26N6O4
